* COPYRIGHT OF TEXAS INSTRUMENTS
*
* UA748 operational amplifier "macromodel" subcircuit
* created using Parts release 4.01 on 09/01/89 at 13:14
* (REV N/A)
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |  compensation
*                | | | | | / \
.subckt UA748	 1 2 3 4 5 6 7
*
  c1   11 12 7.977E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 42.44E6 -40E6 40E6 40E6 -40E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 3.352E-9
  iee  10  4 dc 15.14E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.839E3
  re2  14 10 1.839E3
  ree  10 99 13.21E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 16.81E3
  vb    9  0 dc 0
  vc	3 53 dc 2.600
  ve   54  4 dc 2.600
  vlim  7  8 dc 0
  vlp  91  0 dc 25
  vln   0 92 dc 25
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=107.1)
.ends
* LT1008 operational amplifier "macromodel" subcircuit
* created using Parts release 4.01 on 08/29/89 at 13:20
* (REV N/A)
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |  compensation
*                | | | | | / \
.subckt LT1008   1 2 3 4 5 6 7
*
  c1   11 12 6.887E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 141.5E6 -100E6 100E6 100E6 -100E6
  ga    6  0 11 12 113.1E-6
  gcm   0  6 10 99 15.98E-12
  iee  10  4 dc 6.000E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 8.841E3
  rc2   3 12 8.841E3
  re1  13 10 219.5
  re2  14 10 219.5
  ree  10 99 33.33E6
  ro1   8  5 125
  ro2   7 99 125
  rp    3  4 80.21E3
  vb    9  0 dc 0
  vc	3 53 dc 1.600
  ve   54  4 dc 1.600
  vlim  7  8 dc 0
  vlp  91  0 dc 8
  vln   0 92 dc 8
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=100.0E3)
.ends
* TL060 operational amplifier "macromodel" subcircuit
* created using Parts release 4.01 on 09/22/89 at 13:08
* (REV N/A)
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |  compensation
*                | | | | | / \
.subckt TL060    1 2 3 4 5 6 7
*
  c1   11 12 2.332E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 477.4E3 -500E3 500E3 500E3 -500E3
  ga    6  0 11 12 62.84E-6
  gcm	0  6 10 99 2.178E-9
  iss   3 10 dc 35.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 15.91E3
  rd2   4 12 15.91E3
  ro1   8  5 200
  ro2   7 99 200
  rp    3  4 150.0E3
  rss  10 99 5.714E6
  vb    9  0 dc 0
  vc	3 53 dc 2.130
  ve   54  4 dc 2.130
  vlim  7  8 dc 0
  vlp  91  0 dc 15
  vln   0 92 dc 15
.model dx D(Is=800.0E-18)
.model jx PJF(Is=15.00E-12 Beta=64E-6 Vto=-1)
.ends
* TL070 operational amplifier "macromodel" subcircuit
* created using Parts release 4.01 on 09/22/89 at 09:52
* (REV N/A)
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |  compensation
*                | | | | | / \
.subckt TL070    1 2 3 4 5 6 7
*
  c1   11 12 5.197E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 3.929E6 -4E6 4E6 4E6 -4E6
  ga	6  0 11 12 361.3E-6
  gcm   0  6 10 99 1.908E-9
  iss   3 10 dc 234.0E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 2.947E3
  rd2   4 12 2.947E3
  ro1   8  5 150
  ro2   7 99 150
  rp    3  4 21.43E3
  rss  10 99 854.7E3
  vb    9  0 dc 0
  vc	3 53 dc 2.180
  ve   54  4 dc 2.180
  vlim  7  8 dc 0
  vlp  91  0 dc 25
  vln   0 92 dc 25
.model dx D(Is=800.0E-18)
.model jx PJF(Is=32.50E-12 Beta=311E-6 Vto=-1)
.ends
* TL080 operational amplifier "macromodel" subcircuit
* created using Parts release 4.01 on 09/15/89 at 12:46
* (REV N/A)
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |  compensation
*                | | | | | / \
.subckt TL080    1 2 3 4 5 6 7
*
  c1   11 12 5.197E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 3.803E6 -4E6 4E6 4E6 -4E6
  ga	6  0 11 12 377.6E-6
  gcm   0  6 10 99 9.882E-9
  iss   3 10 dc 234.0E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 2.852E3
  rd2   4 12 2.852E3
  ro1   8  5 150
  ro2   7 99 150
  rp    3  4 21.43E3
  rss  10 99 854.7E3
  vb    9  0 dc 0
  vc	3 53 dc 2.200
  ve   54  4 dc 2.200
  vlim  7  8 dc 0
  vlp  91  0 dc 25
  vln   0 92 dc 25
.model dx D(Is=800.0E-18)
.model jx PJF(Is=15.00E-12 Beta=332E-6 Vto=-1)
.ends
* NE5534 operational amplifier "macromodel" subcircuit
* created using Parts release 4.01 on 04/10/89 at 12:41
* (REV N/A)
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |  compensation
*                | | | | | / \
.subckt NE5534   1 2 3 4 5 6 7
*
  c1   11 12 7.703E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 2.893E6 -3E6 3E6 3E6 -3E6
  ga    6  0 11 12 1.382E-3
  gcm   0  6 10 99 13.82E-9
  iee  10  4 dc 133.0E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 723.3
  rc2   3 12 723.3
  re1  13 10 329
  re2  14 10 329
  ree  10 99 1.504E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 7.757E3
  vb    9  0 dc 0
  vc    3 53 dc 2.700
  ve   54  4 dc 2.700
  vlim  7  8 dc 0
  vlp  91  0 dc 38
  vln   0 92 dc 38
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=132)
.ends
